US04144349
N,N-dimethyl-1,2,4,5,6,7-hexahydro-10-bromothiocino[5,4-b]indole-7-propanamine 3,3-dioxide
A mixture of 9.0g (0.0276 mole) of 1,2,4,5,6,7-hexahydro-10-bromothiocino[5,4-b]indole 3,3-dioxide, 1.3g (0.03 mole) of 57% dispersion sodium hydride and 3.36g (0.0276 mole) of 3-dimethylaminopropyl chloride is treated according to the procedure in Example 6. After recrystallization from ethyl acetate, there is obtained 6.0g (52%) of an analytical sample, m.p. 135°-137° C.

reactant | 1,2,4,5,6,7-hexahydro-10-bromothiocino[5,4-b]indole 3,3-dioxide | 0.0276 mole, 9.0g | BrC1=CC=2C3=C(NC2C=C1)CCCS(CC3)(=O)=O | C13H14BrNO2S
reactant | sodium hydride | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 0.0276 mole, 3.36g | CN(CCCCl)C | C5H12ClN
product | N,N-dimethyl-1,2,4,5,6,7-hexahydro-10-bromothiocino[5,4-b]indole-7-propanamine 3,3-dioxide | CN(CCCN1C2=C(C=3C=C(C=CC13)Br)CCS(CCC2)(=O)=O)C | C18H25BrN2O2S
